US08614209B2
[5-(2-chloro-phenyl)thiophen-3-yl]piperidin-1-yl-methanone (AA-13)
(5-Bromo-thiophen-3-yl)-piperidin-1-yl-methanone (75 mg, 0.27 mmol) was dissolved in dimethoxyethane (1 mL) and ethanol (1 mL). 2-Chlorophenylboronic acid (0.54 mmol), [1,1′-bis(diphenylphosphino)ferrocine]dichloropalladium (II) (0.014 mmol) and caesium carbonate (0.41 mmol) were added and the reaction mixture heated to 140° C. using microwave irradiation for 1 hour. The solvent was removed under vacuum and the residue dissolved in ethyl acetate. The organic solution was washed with water, dried over magnesium sulfate, filtered and the solvent evaporated. The residue was purified by column chromatography on silica, eluting with 0%-25% ethyl acetate in petroleum ether. The fractions containing the desired product were concentrated under vacuum to give the title compound (48 mg). LCMS m/z 306.02 [M+H]+ R.T.=11.48 min (Analytical Method 2). 1H NMR (400 MHz, CHCl3-d): δ 7.5 (m, 3H), 7.4 (s, 1H), 7.3-7.4 (m, 2H), 3.6 (m, 4H), 1.7-1.5 (m, 6H).

reactant | (5-Bromo-thiophen-3-yl)-piperidin-1-yl-methanone | 0.27 mmol, 75 mg | BrC1=CC(=CS1)C(=O)N1CCCCC1 | C10H12BrNOS
reactant | 2-Chlorophenylboronic acid | 0.54 mmol | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | caesium carbonate | 0.41 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethoxyethane | 1 mL | C(OC)COC | C4H10O2
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | [5-(2-chloro-phenyl)thiophen-3-yl]piperidin-1-yl-methanone | 48 mg | ClC1=C(C=CC=C1)C1=CC(=CS1)C(=O)N1CCCCC1 | C16H16ClNOS
